US04968708
2-Methylimidazo[2,1-b]benzothiazole, 18.8 g, was suspended in 100 ml of dry tetrahydrofuran. Under cooling (at -78° C.), 100 ml of a solution of n-butyl lithium in n-hexane was dropwise added to the suspension over 15 minutes. After completion of the dropwise addition, the temperature was gradually raised and stirring was performed at 0° C. for 30 minutes. The mixture was again cooled to -78° C. After adding an excess of dry ice, the temperature was gradually raised and stirring was performed at 0° C. for 30 minutes. Under ice cooling, 200 ml of 2N sodium hydroxide solution was added to the reaction solution. After washing with ether, the aqueous phase was neutralized with acetic acid and the precipitated crystals were taken out by filtration. The crystals were stirred in 300 ml of chloroform for 30 minutes and 6.0 g of 2-methylimidazo[2,1-b]benzothiazole-3-carboxylic acid was obtained as the insoluble matter in chloroform.

reactant | 2-Methylimidazo[2,1-b]benzothiazole | CC=1N=C2SC3=C(N2C1)C=CC=C3 | C10H8N2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | sodium hydroxide | 2N, 200 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 2-methylimidazo[2,1-b]benzothiazole-3-carboxylic acid | 6.0 g | CC=1N=C2SC3=C(N2C1C(=O)O)C=CC=C3 | C11H8N2O2S
